* Z:\home\user\Desktop\swcad\_models\_ALL_STARS\All_stars.asc

..params a1=2 c3 = f( a1 )
,func _1#quant( x, y, z) { x+ y	-		1/z  }
,param number 1  
.params   other   2

A1 {0 *2} 2 3 4 5 y x 0 AND td=1n
A51 + - 0 s1 0 y x 0 AND vt=0
A2 1 {a<= b} 0 0 0 y x 0 BUF td=1n
A#3 a {if(a,1,0)} { b/ 2 } N001 3 0 x 0 BUF vhigh=1 vlow=0 td=1n ref=0 trise=1n tfall=0 rout=1 cout=1
A4 D 0 clk pre clr y x 0 DFLOP td=1n
A5 + - 0 s1 0 y x 0  SCHMITT vt=0
A6 + - 0 0 0 0 x 0 9 SCHMITT
A7 + - 0 0 0 y	0 0 {9} SCHMITT vt=0 vh=0
A8 1 0 0 0 0 x 0 0 BUF td=1n
A9 1 2 3 4 5 y x 0 OR td=1n
A10 { if( b, 2, 0 ) } 2 0 0 0 0 x 0 PHASEDET td=1n
A11 1 0 0 0 0 y x 0 SCHMITT td=1n vt=0 vh=1
A12) 1 0 0 0 0 0 x 0 SCHMITT td=1n ref=0
A13 1 0 0 0 0 y 0 0 SCHMITT vh=0 vt=1
A14 s r 0 0 0 y x 0 SRFLOP td=1n
A15 1 2 3 4 5 y x 0 XOR td=1n
A16 { if( {a}==f(b), 1, {a*b}) } am 0 0 0 0 x 0 MODULATOR mark=1 space=0
A17 fm am 0 0 0 y x 0 MODULATOR mark=1 space=0
A18 + - clk sh 0 0 x 0 SAMPLEHOLD td=1n
A19<  1 2 3 3 3  3 4 3 VARISTOR rclamp=1

B   {if( a, {a*b}, 2)} {a <=b } V=f(time) tripdt=1 tripdv = 1
B 1 {if( a, 1, 2)} 3 V=f(time) tripdv = 1 tripdt=1
B2~,.   0 1 ic = 2 I=f(time)*{a} rpar=1
B2!  0 1= V = f(time*{a/{b}}) *{a} rpar=1
B2~,.   0 1 I=f(time)*{a}
B21 1  2 rpar=1 I= a+ ( tripdt=  =1) tripdt={tripdt} tripdv=1
B23 1 2    rpar=1 I =  a+   tripdt tripdv=1 tripdt=1u ic=1
B_#3 1 2 2
B2!  0 1 Laplace = s *{a} rpar=1 ic=0
B21 1  2 window=1 nfft=1 Laplace= 1/s ic =1
B51{ 0 1 i=1 rpar = 1

Cerr 1 {if ( a, 1, 2)}   4 1.2
C1 {if ( a, 1, 2)}  1 1
C2 1 {if ( a, 1, 2)}    1.
C3	1 {if ( a, 1, 2)}  1.44
C4  {a<{b } } {if ( a, 1, 2)}  .44
C3	1 {if ( a, 1, 2)}  1.44e-12
C1 {if ( a, 1, 2)}  1 13u ic = 1
C5 1 {if ( a, 1, 2)}    {1.2}
C2	1 {if ( a, 1, 2)}  {3.} Lser=1 _ = 2
C4 1 {if ( a, 1, 2)}  1.44 rpar>=1
C2	{a> = {b} } {if ( a, 1, 2)}  {3.} Lser=1
C2  {a >= {b} } 	{if ( a, 1, 2)}  {3.}
C2	{ a= = {b} } {if ( a, 1, 2)}  .1nF
C55 2 { _a== b } Q = x* { pi + ( m = =1) }
C5 2 1 Q	= x* {pi} m= 3 rpar=1
C6   2 1 2 m= 3 ic=1
C8	1  {2}  { a } Rpar =1 Cpar	= 1 ic	=	0
C#@^% 2 1 Q = x* { pi + ( m ==1) } m= 3 ic =1

D1 s1 2 D
D2 1 2  1N4148 m=1 n=2

E1 2 {a * 1} table {v(a)} (1,1 2,2)
E_1 2 {a * 1} b { a-{b }} table (1,1 1)
;E11 { a } { b } tbl{ 0, 0, 1, 1}
E2 1 2 value = { 1 }
E3 3	4   nfft  = 2048 Laplace = (s^2+1)/(s^2+2*s +{ a }) window=1024
Eee 13 13 13 13 laplace { 1/(s+1)}
E1 2 0 1 0 1
F1 1 0 V1 1
L1 1 2 1
G1 0 2 1 0 1
G_1 2 {a * 1} freq {v(b)} (1,1 1) (2,2,2)
G@543	1 {1 * 2 } poly(2) {v(1),v(2)} 1 2 3 4 5
G_x 0 1 2 3 Laplace (s)
G_y 2 3 {s} {laplace} laplace = s^2+1
H1 1 0 V1 1
W1 1 2 V1 CSW off
I1 1 0 22222
L2 1 2 { g ( 1, 2*3, 5) = = 1 }
Q1 3 1 2 0 NPN
J1 3 1 2 PJF
M1 3 1 2 2 PMOS
Q2 3 1 2 0 PNP
R1 1 0 R=time
R2 0 1 {11}
S1 2 0 0 1 SW
T1 1 0 2 0 Td=50n Z0=50
V1 1 0 1
O1 1 0 2 0 LTRA
XU1 dut+ dut- bias resistance capacitance capometer current=1m freq=3Meg C=.5µ Q=.25
.param a=1 b = a c = f(1) and=1 inv=1 ;nihil
+ x = 2 y= x *3 z =f( x** y ) ;abracadabra inv dflop
+dflop =1 _1= pi  value=f(1)
+f(x,y)=2
.func f(x)=x**2
.func table( x, y, z) = table(x,y,1,z,2)
.model D D
.lib Z:\opt\Progs\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib Z:\opt\Progs\LTspiceIV\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib Z:\opt\Progs\LTspiceIV\lib\cmp\standard.jft
.model NMOS NMOS
.model PMOS PMOS
.lib Z:\opt\Progs\LTspiceIV\lib\cmp\standard.mos
.tran 0 1 0 1m steady startup nodiscard uic
.model d d
.model csw csw
.model sw sw
.model ltra ltra len=1 r=1 l=1 c=1
.op
.four 1k 25 v(1)
.ferret
.global 1 999
.ic v(2)=2
.inc capometer.sub
.lib ltc.lib
.loadbias .\load.bias
.savebias .\save.bias
*** state machine ; line comment
.mach    ; both are
.machine ; highlighted
.state s0 1
,state s1 0 ; comma instead of dot
.rule s0 s1 nothing ; there are no checks for correctnes ...
.output (node) state ; ... or nodenames & co -- it's up to the user
.endmachine ; both are
,endmach    ; highlighted
*** end state machine
.meas xxx param x
.net v(1) v(2)
.nodeset v(4)=1
.options numdgt=16
.opt gshunt=1p
.opts reltol=1m
.option cshunt=1p
.save v(2)
.step param b 1 10 2
.subckt @1xxx s[1] _1 2 a x1 x2   params: a=2
r1 1 2 {a}
r2 2 0 2k
,ends @1xxx
.temp 10 20
.wave .\snd.wav 16 48k v(1) v(2)
.backanno
.end
